US08044042B2
To a mixture of methyl (S)-{4-(4-chlorophenyl)-2-formyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate (429 mg) synthesized in Example 342 as an intermediate, palladium acetate (11 mg), 2-(di-tert-butylphosphino)biphenyl (30 mg), potassium fluoride (349 mg) and 3-cyanophenylboronic acid (441 mg) was added tetrahydrofuran (4 mL), and the mixture was heated under reflux for 6 hr. After cooling, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was purified by column chromatography (chloroform:methanol=100:1) to give methyl (S)-{4-(3′-cyanobiphenyl-4-yl)-2-formyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate (588 mg). The obtained methyl (S)-{4-(3′-cyanobiphenyl-4-yl)-2-formyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate (564 mg) was dissolved in acetonitrile (4 mL), and aqueous sodium dihydrogen phosphate solution (128 mg/1.6 mL) was added. To the reaction mixture were successively added 35% hydrogen peroxide solution (0.5 mL) and aqueous sodium chlorite solution (174 mg/0.6 mL) at 0° C., and the mixture was stirred for 1 hr on a water bath. After completion of the reaction, water was added, and the mixture was worked up with sodium sulfite. The aqueous layer was acidified and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated to give (S)-4-(3′-cyanobiphenyl-4-yl)-6-methoxycarbonylmethyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-carboxylic acid (500 mg). The obtained (S)-4-(3′-cyanobiphenyl-4-yl)-6-methoxycarbonylmethyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-carboxylic acid (487 mg) and copper (50 mg) were reacted at 150° C. for 30 min in quinoline. After completion of the reaction, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was purified by column chromatography (chloroform:methanol=100:1) and recrystallized from ethyl acetate to give the title compound (217 mg).

reactant | methyl (S)-{4-(3′-cyanobiphenyl-4-yl)-2-formyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate | 564 mg | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C(=C(S3)C=O)C)C(=NN2)C)CC(=O)OC | C27H21N5O3S
reactant | sodium dihydrogen phosphate | 1.6 mL, 128 mg | P(=O)(O)(O)[O-].[Na+]
reactant | hydrogen peroxide | 0.5 mL | OO | H2O2
reactant | sodium chlorite | 0.6 mL, 174 mg | Cl(=O)[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | (S)-4-(3′-cyanobiphenyl-4-yl)-6-methoxycarbonylmethyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-carboxylic acid | 500 mg | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C(=C(S3)C(=O)O)C)C(=NN2)C)CC(=O)OC | C27H21N5O4S
